Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro / Feraheme
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of CAD (s/p multiple DES), hepatitis C (s/p 
harvoni),
HIV infection (on HAART), cirrhosis, Stage 4 CKD, HTN, HFpEF,
aortic regurgitation, COPD, G6PD deficiency and remote history 
of
pulmonary TB and RPR, IBS and GI bleed who is presenting with
abdominal pain and distention. 

Per report he has had this discomfort over the past 4 days and
this feels like his typical IBS flair for which he takes 
Linzess.
He tried this yesterday and had a normal bowel movement, but did
not resolve the pain like it typically would. Pain started in 
the
LLQ and then migrated in a circle around his entire abdomen. No
abnormal foods. No sick contacts. He denies fevers, chills, 
chest
pain, shortness of breath, n/v/d.

In the ED, initial VS were: 97.5, 77, 178/79, 16, 100% RA 
  
Exam notable for:  PE: Distended abdomen, soft, non-tender to
palpation. No c/c/e. RRR. CTAB. AAOx3. Guiaic negative brown
stool. 

ECG: sinus rate 74, QTc 472, q waves I aVL, no clear ischemic
changes   

Labs showed: Cr 3.8, HCO3 15-> 19, UA >182 WBC large leuks, 0
epis, Trp 0.07 x1, Lactate 1.7, Lipase 171, H/H 7.8/24.7
   
Imaging showed: CT A/P: No acute intra-abdominal or pelvic
process.  
Consults: None 
 
Past Medical History:
PAST MEDICAL HISTORY (per nephrology note ___:
1. CKD stage 3B; Etiology unknown, but suspect hypertensive
nephrosclerosis with secondary FSGS
- Nephrotic range proteinuria in the past off ACEi due to
hyperkalemia; proteinuria appeared to correspond with poorly
controlled BPs.
- No biopsy due to co-morbidities and improving proteinuria
2. HIV; on HAART, last VL undetectable   
3. Hepatitis C with portal HTN s/p Harvoni w/ undetectable VL  
4. HTN  
- US ___ negative for RAS
5. Hyperlipidemia  
6. CAD s/p DES to mid-LAD, D1, and distal RCA ___, s/p DES 
to
mLCX ___
- nuclear stress ___ with possible reversible perfusion
defects in LAD/LCx region pending stress echo.
- TTE (___) = preserved EF (>55%)
7. COPD  
8. Anemia of chronic disease, G6PD deficiency  
9. GERD  
10. Chronic diarrhea
11. Metabolic acidosis likely secondary to CKD and diarrhea.  
Has
had inappropriately high urine pH in this setting 
12. Cervical spinal stenosis  
13. Pulmonary TB  
14. Positive RPR treated in the 1970s  
15. IBD on Linzess
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  

VS: 98.0, 162/79, 77 16 100 RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
HEART: RRR, systolic murmur  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: distended, protuberant, +BS, non tender, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, xerotic skin  

DISCHARGE PHYSICAL EXAM:
Vitals: 
___ 0720 Temp: 98.5 PO BP: 134/64 L Sitting HR: 79 RR: 18 
O2
sat: 100% O2 delivery: Ra 
 General: alert, oriented, no acute distress  
 Eyes: Sclera icteric
 HEENT: MMM, oropharynx clear  
 Neck: supple, no LAD  
 Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
 GI: distended, soft, non-tender, bowel sounds present, no
rebound tenderness or guarding
 MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
 Neuro: SILT, motor function grossly normal  

 
Pertinent Results:
ADMISSION LAB RESULTS:

___ 08:46AM BLOOD WBC-7.4 RBC-2.51* Hgb-7.8* Hct-24.7* 
MCV-98 MCH-31.1 MCHC-31.6* RDW-13.0 RDWSD-45.9 Plt ___
___ 08:46AM BLOOD Neuts-52.8 ___ Monos-6.2 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-3.92 AbsLymp-2.87 AbsMono-0.46 
AbsEos-0.09 AbsBaso-0.03
___ 08:46AM BLOOD Plt ___
___ 08:46AM BLOOD Glucose-117* UreaN-118* Creat-3.8* Na-140 
K-4.9 Cl-102 HCO3-15* AnGap-23*
___ 08:46AM BLOOD ALT-14 AST-28 CK(CPK)-150 AlkPhos-99 
TotBili-0.3
___ 08:46AM BLOOD Lipase-171*
___ 03:09PM BLOOD CK-MB-3 cTropnT-0.06*
___ 08:46AM BLOOD CK-MB-3 cTropnT-0.07*
___ 08:46AM BLOOD Albumin-3.8 Calcium-8.8 Phos-4.1 Mg-1.5*

DISCHARGE LABS:

___ 06:15AM BLOOD WBC-7.9 RBC-2.50* Hgb-7.8* Hct-24.6* 
MCV-98 MCH-31.2 MCHC-31.7* RDW-12.9 RDWSD-45.9 Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-106* UreaN-111* Creat-3.5* Na-144 
K-4.1 Cl-106 HCO3-16* AnGap-22*
___ 06:15AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.0

IMAGING:
EKG ___: sinus rate 74, QTc 472, q waves I aVL, no clear 
ischemic
changes   

CT Abdomen and Pelvis ___: Impression: No evidence of acute 
abdominopelvic process to explain patient's symptoms.

Plain radiograph ___: Impression: Nonspecific, nonobstructive 
bowel pattern.

 
Brief Hospital Course:
___ with hx of CAD (s/p DES to the mid LAD and distal RCA) 
stenting, hepatitis C (s/p harvoni), HIV infection (on HAART), 
cirrhosis, Stage 4 CKD, HTN, HFpEF, aortic regurgitation, COPD, 
G6PD deficiency and remote history of pulmonary TB and RPR, IBS 
and GI bleed who presented with abdominal pain and distention.

#UTI: On admission the patient was found to have a positive UA, 
with symptoms of abdominal pain and also described a few days of 
cloudy, odorous urine with mild pain with urination. He was 
treated for presumptive UTI with a plan to discharge on 
cefpidoxime PO for 4 more days along with outpatient ___, 
in order to narrow PO as indicated based on culture.

#IBS/abdominal pain: Regarding the patient's abdominal pain 
without n/v, it was acute over the past 4 days, and felt similar 
to past IBS flares per patient but was not relieved after 
linzess and bowel movement as expected. Reassuringly the CT A/P 
was negative for an acute process in the ED. There was mild 
lipase elevation without typical symptoms to suggest 
pancreatitis. It is possible this pain was referred pain from 
cystitis. A cardiac mimic was on the differential, but was less 
likely in the absence of acute ischemic EKG changes, trp 
elevation above baseline. Overall, most likely IBS related, with 
complete resolution of symptoms upon admission to the floor. The 
patient continued linzess from home, received IVF, bowel 
regimen, and anti-emetics/pain meds PRN.  

#CKD IV-V: Regarding the patients CKD Stage ___ HTN. baseline 
Cr ___. Cr 3.4 on admission at baseline. We renally dosed his 
medications and rescheduled his missed outpatient nephrology 
appnt for ___. For the patients chronic anemia, he missed 
an appointment for Aranesp injection, so BI Nephrology will 
contact pt to reschedule Aranesp injection.

 # Trp leak. Trp 0.07 on admission in the setting of CKD near 
baseline. EKG with old ischemic changes, no new reassuring. 
Tropinin x2 reassuring. He will continue with his regular 
outpatient cardiology follow up. His last outpatient cardiology 
appointment was in ___ with Dr. ___.

Transitional Issues:
[] Pt will complete 7d of antibiotics total for complicated 
urinary tract infection
[] Pt missed an appointment with his nephrologist due to being 
inpatient, and we have rescheduled this for him
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. amLODIPine 10 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Efavirenz 600 mg PO DAILY 
5. HydrALAZINE 150 mg PO BID 
6. Ipratropium-Albuterol Inhalation Spray 1 INH IH QID 
7. LaMIVudine 100 mg PO DAILY 
8. Pravastatin 20 mg PO QPM 
9. Torsemide 40 mg PO DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
12. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
100 mcg/mL injection q4 weeks 
13. Aspirin 81 mg PO DAILY 
14. Diltiazem Extended-Release 240 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 
16. Doxazosin 2 mg PO HS 
17. Linzess (linaclotide) 145 mcg oral DAILY 
18. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
19. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
TID:PRN 
20. Cyanocobalamin ___ mcg PO DAILY 
21. Simethicone 40-80 mg PO QID:PRN gas pains 
22. Timolol Maleate 0.5% 1 DROP BOTH EYES QAM 
23. Isosorbide Mononitrate (Extended Release) 120 mg PO BID 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q24H Duration: 5 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0
RX *cefpodoxime 200 mg 2 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0 
2.  Sodium Bicarbonate 650 mg PO TID 
RX *sodium bicarbonate 650 mg 1 tablet(s) by mouth three times 
daily Disp #*90 Tablet Refills:*0 
3.  Abacavir Sulfate 300 mg PO BID  
4.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
5.  amLODIPine 10 mg PO DAILY  
6.  Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
100 mcg/mL injection q4 weeks  
7.  Aspirin 81 mg PO DAILY  
8.  Cyanocobalamin ___ mcg PO DAILY  
9.  Diltiazem Extended-Release 240 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Doxazosin 2 mg PO HS  
12.  Efavirenz 600 mg PO DAILY  
13.  Ipratropium-Albuterol Inhalation Spray 1 INH IH QID  
14.  Isosorbide Mononitrate (Extended Release) 120 mg PO BID  
15.  LaMIVudine 100 mg PO DAILY  
16.  Linzess (linaclotide) 145 mcg oral DAILY  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
18.  Pantoprazole 40 mg PO Q12H  
19.  Pravastatin 20 mg PO QPM  
20.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
TID:PRN SOB  
21.  Simethicone 40-80 mg PO QID:PRN gas pains  
22.  Timolol Maleate 0.5% 1 DROP BOTH EYES QAM  
23.  Torsemide 40 mg PO DAILY  
24. HELD- Carvedilol 25 mg PO BID  This medication was held. Do 
not restart Carvedilol until you see your PCP
25. HELD- HydrALAZINE 150 mg PO BID  This medication was held. 
Do not restart HydrALAZINE until you see your primary care 
doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Irritable bowel syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___-

You came to the hospital because you had abdominal pain. You 
were found to have a urinary tract infection, and were given 
antibiotics. Your abdominal pain got better, and we think this 
was likely due to your IBS and the urinary tract infection. 
Please take all your medications as prescribed below. Please 
ensure that you take all of the antibiotic until it is gone, 
even if you feel better. 

Please follow-up with your primary care physician as below, and 
we wish you the best in the future-

Your ___ Care Team
 
Followup Instructions:
___